US05792765
5-Bromo-2-isocyanato-pyridine Hydrochloride
78.0 ml (0.64 mol) of trichloroethyl chloroformate are added dropwise at boiling heat to a stirred solution of 100 g (0.58 mol) of 2-amino-5-bromopyridine in 400 ml of 1,2-dichloroethane. After the addition the mixture is refluxed for 2 h, then it may be cooled to room temperature. The resulting precipitate is removed by filtration, washed well with 100 ml of 1,2-dichloroethane and dried over sodium hydroxide in a high vacuum. 98.3 g (72%) of the title compound are obtained as a yellow solid.

reactant | trichloroethyl chloroformate | 0.64 mol, 78.0 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2-amino-5-bromopyridine | 0.58 mol, 100 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | 5-Bromo-2-isocyanato-pyridine Hydrochloride | 98.3 g, 72% | Cl.BrC=1C=CC(=NC1)N=C=O | InChI=1S/C6H3BrN2O.ClH/c7-5-1-2-6(8-3-5)9-4-10;/h1-3H;1H
